US08334287B2
b) 2-(2-methoxy-ethyl)-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one
The title compound, light yellow oil, MS: m/e=361.1 (M+H+), was prepared in accordance with the general method of example 23b from 5-chloro-2-(2-methoxy-ethyl)-2H-pyridazin-3-one and 4-Iodo-2-methyl-1H-imidazole.

reactant | 5-chloro-2-(2-methoxy-ethyl)-2H-pyridazin-3-one | ClC1=CC(N(N=C1)CCOC)=O | C7H9ClN2O2
reactant | 4-Iodo-2-methyl-1H-imidazole | IC=1N=C(NC1)C | C4H5IN2
product | 2-(2-methoxy-ethyl)-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | COCCN1N=CC(=CC1=O)N1C(=NC(=C1)I)C | C11H13IN4O2
